US07592343B2
SYNTHESIS OF 6-[4-(4-FLUOROPHENYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
To a solution of 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.120 g, 0.532 mmol) in DMF (2.3 mL) was treated with 1-(4-fluorophenyl)piperazine (0.117 g, 0.638 mmol) in the presence of 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU) (0.23 mL, 1.54 mmol) and tetra-n-butylammonium iodide (Bu4NI) (11 mg, 0.0298 mmol). The reaction mixture was heated at 75° C. to 80° C. for 15 hours, cooled to room temperature, diluted with ethyl acetate (100 mL). The organic layer was washed with water (3×10 mL), brine (3×10 mL), dried over Na2SO4, and then concentrated in vacuo. The crude product was purified by column chromatography to give the title compound as a white powder in 74% yield (0.146 g). 1H NMR (300 MHz, CDCl3) δ 8.05-7.99 (m, 2H), 7.02-6.89 (m, 5H), 3.90 (t, J=5.2 Hz, 4H), 3.55 (m, 2H), 3.23 (t, J=5.2 Hz, 4H), 1.55-1.47 (m, 2H), 0.79-0.72 (m, 1H), 0.49-0.43 (m, 2H), 0.11-0.06 (m, 2H). MS (ES+) m/z 370.3 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 0.532 mmol, 0.120 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | 1-(4-fluorophenyl)piperazine | 0.638 mmol, 0.117 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 1.54 mmol, 0.23 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 2.3 mL | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 0.0298 mmol, 11 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-[4-(4-FLUOROPHENYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 74% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C1=CC=C(C=C1)F | C20H24FN5O
